US07361659B2
To a stirred solution of 1-methylpiperazine (1.18 g, 11.8 mmol) in THF (24 ml) was added at 0° C. (ice water bath) commercially available 2-acetamido-4-methylthiazole-5-sulfonyl chloride (2.0 g, 7.85 mmol) and triethylamine (1.2 ml, 8.6 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by column chromatography on silica gel (dichloromethane/MeOH 9:1) and subsequent crystallization (dichloromethane/MeOH/hexane) to yield 2-acetamido-4-methyl-thiazole-5-sulfonic acid (4-methylpiperazinyl)-amide (1.85 g, 74%) as a white solid. MS (ISP) 319.0 [(M+H)+]; mp 245° C.

reactant | 1-methylpiperazine | 11.8 mmol, 1.18 g | CN1CCNCC1 | C5H12N2
reactant | 2-acetamido-4-methylthiazole-5-sulfonyl chloride | 7.85 mmol, 2.0 g | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | triethylamine | 8.6 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 24 ml | C1CCOC1 | C4H8O
product | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (4-methylpiperazinyl)-amide | 1.85 g, 74% | CN1CCN(CC1)NS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C | C11H19N5O3S2
